US06518257B1
(i) Production of 2-(3-bromophenyl)-N-methylacetamide
A mixture of 3-bromophenylacetic acid (3.02 g), a solution (2.0 M; 8.5 ml) of methylamine in THF, 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (3.20 g), 1-hydroxybenzotriazole (2.60 g) and triethylamine (2.3 ml) was stirred in DMF (30 ml) at room temperature for 24 h. The reaction mixture was diluted with ethyl acetate, washed successively with water, 1N aqueous sodium hydroxide solution, 1N hydrochloric acid, aqueous sodium hydrogen carbonate and brine, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was purified by silica gel chomatography (eluent; ethyl acetate). Recrystallization from hexane-ethyl acetate gave the title compound (1.30 g) as colorless prism crystals.

reactant | 3-bromophenylacetic acid | 3.02 g | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | methylamine | 2.0 M, 8.5 ml | CN | CH5N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 3.20 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 2.60 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
product | 2-(3-bromophenyl)-N-methylacetamide | 1.30 g | BrC=1C=C(C=CC1)CC(=O)NC | C9H10BrNO
